data/mechanism_extracts/OrgChemFront/10.1039_c8qo00803e.json
{"doi": "10.1039_c8qo00803e", "journal": "OrgChemFront", "is_review": false, "rxn_class_summary": "Electrochemical ferrocene-mediated cascade 5-exo-trig/7-endo-trig radical cyclization of unsaturated carbamates and ureas to give functionalized 7-membered carbocycles (cycloheptane-fused oxazolidinones/imidazolones)", "mechanism_family": ["radical_anodic", "mediator_anodic", "electrocatalysis_outer_sphere", "paired_electrolysis"], "electrochemical_role": "Anode oxidizes Cp2Fe to Cp2Fe+, which performs single-electron transfer (SET) oxidation of the deprotonated carbamate/urea N-anion to generate a nitrogen-centered radical; cathode reduces MeOH to methoxide and H2, with methoxide deprotonating the N-H substrate.", "key_intermediates": [{"name": "N-anion of carbamate/urea substrate (conjugate base A)", "smiles": null, "role": "transient"}, {"name": "nitrogen-centered radical B (NCR)", "smiles": null, "role": "reactive"}, {"name": "carbon-centered radical C after 5-exo-trig cyclization (5-membered ring with trans-disposition of radical and pendant alkene)", "smiles": null, "role": "reactive"}, {"name": "bicyclic 3,4-cis 7-endo-trig cyclized C-radical D", "smiles": null, "role": "reactive"}, {"name": "3,4-trans diastereomeric 7-endo radical D' (disfavored)", "smiles": null, "role": "off_pathway"}, {"name": "Cp2Fe+ (ferrocenium, anodically generated oxidant)", "smiles": "[Fe+2].[cH-]1cccc1.[cH-]1cccc1", "role": "transient"}, {"name": "monocyclized H-atom-transfer product 3 (from C trapping H from 1,4-CHD)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Cp2Fe is oxidized at the anode to Cp2Fe+ while MeOH is reduced at the cathode to MeO- + 1/2 H2; methoxide deprotonates the N-H substrate to give anion A, which Cp2Fe+ oxidizes by SET to nitrogen-centered radical B; B undergoes stereoselective 5-exo-trig cyclization to C-radical C, then regioselective 7-endo-trig cyclization to D, which abstracts H from 1,4-CHD to deliver the 7-membered product 2.", "rate_determining_step": "7-endo-trig cyclization of carbon radical C (TS1, ΔG‡ = 10.1 kcal/mol; competing TS2 to 3,4-trans diastereomer at 11.7 kcal/mol)", "probe_reagents": [{"name": "1,4-cyclohexadiene (1,4-CHD)", "smiles": "C1=CCC=CC1", "purpose": "intermediate_trap", "observation": "H-atom donor; required for efficient turnover — omitting it drops yield of 2 from 60% to 37% and increases monocyclized HAT product 3 to 18%, consistent with H-atom transfer reduction of bicyclic radical D"}, {"name": "substrate with two internal alkenes (gives 18)", "smiles": null, "purpose": "other", "observation": "Only monocyclized product 18 isolated (62%), showing the second (7-endo) cyclization is sensitive to steric hindrance at the distal alkene"}, {"name": "X-ray crystallography of product 12 (CCDC 1823050)", "smiles": null, "purpose": "other", "observation": "Confirms cis ring-fusion stereochemistry of the bicyclic 7-membered product"}], "evidence_types_used": ["DFT", "isolation_of_intermediate", "intermediate_trap_other", "other"], "evidence_strength": "medium", "notes": "DFT (UB3LYP/6-31G*) supports kinetic and thermodynamic preference for 3,4-cis intermediate D over 3,4-trans D' (ΔΔG‡ ≈1.6 kcal/mol; D at -16.0 vs D' at -14.9 kcal/mol relative to C). Origin of selectivity attributed to steric repulsion between PMP and nBu groups in TS2, forcing PMP rotation out of conjugation (dihedral ∠C2-N1-C12-C17 = 61.3° in TS2 vs 35.0° in TS1). Alternative 6-exo-trig pathway from radical C is proposed to be inhibited by ring strain of the trans-fused bicyclic system; the trans disposition of radical and alkene in C is the key stereoelectronic feature that channels cyclization to 7-endo rather than the usual 6-exo for 6-heptenyl radicals."}
